US07435815B2
Ethyl-(1-methyl-1H-pyrrol-2-ylmethyl)-amine
prepared by reaction of ethylamine with 1-methyl-1H-pyrrole-2-carbaldehyde

reactant | ethylamine | C(C)N | C2H7N
reactant | 1-methyl-1H-pyrrole-2-carbaldehyde | CN1C(=CC=C1)C=O | C6H7NO
product | Ethyl-(1-methyl-1H-pyrrol-2-ylmethyl)-amine | C(C)NCC=1N(C=CC1)C | C8H14N2
